US07714009B2
N2-(1-Phenylethyl)-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine
To 0.016 g (0.059 mmol) of N2-(1-phenylethyl)-1,3-benzothiazole-2,7-diamine and 21 μL (0.30 mmol) of propionaldehyde in 2 mL of dichloroethane was added one drop of glacial acetic acid and 0.038 g (0.18 mmol) of sodium triacetoxyborohydride. The mixture was heated to 50° C. for 3 h and concentrated in vacuo. The crude solid was purified by flash chromatography eluting with a 25% ethyl acetate/hexanes mixture to give 0.008 g (38%) of the title compound as a light golden colored oil.

reactant | N2-(1-phenylethyl)-1,3-benzothiazole-2,7-diamine | 0.059 mmol, 0.016 g | C1(=CC=CC=C1)C(C)NC=1SC2=C(N1)C=CC=C2N | C15H15N3S
reactant | propionaldehyde | 0.30 mmol, 21 μL | C(CC)=O | C3H6O
reactant | sodium triacetoxyborohydride | 0.18 mmol, 0.038 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
catalyst | acetic acid | one drop | C(C)(=O)O | C2H4O2
product | N2-(1-Phenylethyl)-N7,N7-dipropyl-1,3-benzothiazole-2,7-diamine | 0.008 g, 38% | C1(=CC=CC=C1)C(C)NC=1SC2=C(N1)C=CC=C2N(CCC)CCC | C21H27N3S
